US03963777
14 g of 1-(4-acetoxy-2,3-dihydroxybutyl)-7-chloro-5-(2-fluorophenyl)-1, 3-dihydro-2H-1,4-benzodiazepin-2-one are dissolved in 30 ml of methanol, treated with 15 ml of 25% aqueous ammonia and stirred at room temperature for 16 hours. The mixture is then evaporated to dryness and chromatographed on silica gel with ethyl acetate/methanol (9:1 ). The pure fractions are combined and evaporated. There is obtained 7-chloro-5-(2-fluorophenyl)-1,3-dihydro-1-(2,3,4-trihydroxybutyl)-2H-1,4-benzodiazepin-2-one in the form of a foam.

reactant | 1-(4-acetoxy-2,3-dihydroxybutyl)-7-chloro-5-(2-fluorophenyl)-1, 3-dihydro-2H-1,4-benzodiazepin-2-one | 14 g | C(C)(=O)OCC(C(CN1C(CN=C(C2=C1C=CC(=C2)Cl)C2=C(C=CC=C2)F)=O)O)O | C21H20ClFN2O5
reactant | ammonia | 15 ml | N | H3N
solvent | methanol | 30 ml | CO | CH4O
product | 7-chloro-5-(2-fluorophenyl)-1,3-dihydro-1-(2,3,4-trihydroxybutyl)-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NCC(N2CC(C(CO)O)O)=O)C2=C(C=CC=C2)F)C1 | C19H18ClFN2O4
